US07182955B2
Copolymer A. Preparation of Isooctyl Acrylate/2-Hydroxyethyl acrylate/Elvacite™ 1010 Copolymer Solution
A master batch was prepared by combining isooctyl acrylate (714.00 g), 2-hydroxyethyl acrylate (523.00 g), polymethylmethacrylate macromonomer (52.00 g) of ELVACITE™ 1010 available from ICI Acrylics), 2,2′-azobis(2-methylbutyronitrile) (2.60 g), ethyl acetate (1245.50 g) and isopropanol (45.50 g). The resulting solution was divided in equal portions and placed into six 1 quart (0.95 L) amber glass bottles. The bottles were purged for 2 minutes with nitrogen at a flow rate of 1 L per minute. The bottles were sealed and placed in a rotating water bath at 57° C. for 24 hours. At 24 hours the bottles were removed from the rotating water bath, unsealed, diluted with 76 g methanol per bottle, mixed until homogenous, and recombined into a 1 gallon (3.8 L) glass jar. The percent solids of the resultant copolymer was 40.5%. The inherent viscosity, I.V., (of a 0.15 g/dL solution of polymer in ethyl acetate measured at 27° C.) was 0.77 dL/g.

reactant | isooctyl acrylate | 714.00 g | C(C=C)(=O)OCCCCCC(C)C | C11H20O2
reactant | 2-hydroxyethyl acrylate | 523.00 g | C(C=C)(=O)OCCO | C5H8O3
reactant | 2,2′-azobis(2-methylbutyronitrile) | 2.60 g | N(=NC(C#N)(CC)C)C(C#N)(CC)C | C10H16N4
reactant | ethyl acetate | 1245.50 g | C(C)(=O)OCC | C4H8O2
solvent | isopropanol | 45.50 g | C(C)(C)O | C3H8O
product | Isooctyl Acrylate 2-Hydroxyethyl acrylate | C(C=C)(=O)OCCCCCC(C)C.C(C=C)(=O)OCCO | InChI=1S/C11H20O2.C5H8O3/c1-4-11(12)13-9-7-5-6-8-10(2)3;1-2-5(7)8-4-3-6/h4,10H,1,5-9H2,2-3H3;2,6H,1,3-4H2
